US06166028
(4-tert-butoxycarbonylamino-2-chloro-phenyl)-carbamic acid 2-piperidin-1-yl-ethyl ester
To a suspension of 1,1-carbonyl-di-(1,2,4)-triazole (4.0 g) in dichloromethane (40 mL) is added a solution of (4-amino-3-chloro-phenyl) carbamic acid tert-butyl ester (5.0 g) in dichloromethane (45 mL) dropwise over 20 minutes. The reaction is stirred at room temperature for 30 minutes at which point a precipitate forms. To this mixture is added piperidineethanol (6.6 mL) and tetra-hydrofuran (20 mL) is added to maintain homogeneity. After heating at reflux overnight the reaction is cooled and then poured into water, the organic layer separated and then washed with saturated aqueous sodium chloride. The solution is dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to a crude oil that is purified by chromatography over silica gel (5% methanol in dichloromethane is used as the eluant) to give the desired product as a white foam.

reactant | (4-amino-3-chloro-phenyl) carbamic acid tert-butyl ester | 5.0 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)N)Cl)=O | C11H15ClN2O2
reactant | piperidineethanol | 6.6 mL | N1(CCCCC1)CCO | C7H15NO
reactant | tetra-hydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | (4-tert-butoxycarbonylamino-2-chloro-phenyl)-carbamic acid 2-piperidin-1-yl-ethyl ester | N1(CCCCC1)CCOC(NC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)Cl)=O | C19H28ClN3O4
